### PR TITLE
feat(AlgebraicTopology/SimplicialSet/NerveAdjunction): to Strict Segal 2

### PR DESCRIPTION
**Pull request by emilyriehl**
Under a suitable hypothesis, a map of 2-truncated simplicial sets can be generated from a refl prefunctor between the underlying reflexive quivers --- provided the codomain is `StrictSegal`. This abstracts a previously formalized result that requires the codomain to be the 2-truncated nerve of a category.

Co-authored-by: Aaron Liu

---

The current draft displays the old code for comparison with new versions labeled ALT. After initial review this will be cut.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 1]
```diff
@@ -126,6 +147,26 @@ lemma OneTruncation₂.homOfEq_edge
...
   rfl
 
+/-- A refl prefunctor between the underlying refl quivers of a 2-truncated simplicial sets induces a
+map on paths. -/
+def oneTruncation₂.pathMap {X Y : SSet.Truncated.{u} 2} (F : OneTruncation₂ X ⥤rq OneTruncation₂ Y)
+    {n : ℕ} (σ : Truncated.Path X n) : Truncated.Path Y n where
+      vertex i := F.obj (σ.vertex i)
+      arrow i := (F.map ⟨σ.arrow i, σ.arrow_src i, σ.arrow_tgt i⟩).edge
+      arrow_src i := (F.map ⟨σ.arrow i, σ.arrow_src i, σ.arrow_tgt i⟩).src_eq
+      arrow_tgt i := (F.map ⟨σ.arrow i, σ.arrow_src i, σ.arrow_tgt i⟩).tgt_eq
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:157]:
```suggestion
  vertex i := F.obj (σ.vertex i)
  arrow i := (F.map ⟨σ.arrow i, σ.arrow_src i, σ.arrow_tgt i⟩).edge
  arrow_src i := (F.map ⟨σ.arrow i, σ.arrow_src i, σ.arrow_tgt i⟩).src_eq
  arrow_tgt i := (F.map ⟨σ.arrow i, σ.arrow_src i, σ.arrow_tgt i⟩).tgt_eq
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 2]
```diff
@@ -210,6 +210,86 @@ lemma spine_δ_arrow_eq (hij : j = i.succ.castSucc) :
...
+
+variable {Z : SSet.Truncated.{u} 2}
+
+variable (Z) in
+/-- The spine of a 2-simplex of a 2-truncated simplicial set valued in a product rather than
+in paths. -/
+noncomputable def segalSpine : Z _⦋2⦌₂ ⟶ Z _⦋1⦌₂ ⨯ Z _⦋1⦌₂ :=
+  prod.lift (Z.map (δ 2).op) (Z.map (δ 0).op)
+
+theorem StrictSegal.spineMonic (sz : StrictSegal Z) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:226]:
```suggestion
theorem StrictSegal.mono_spine (sz : StrictSegal Z) :
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 3]
```diff
@@ -76,7 +76,240 @@ def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
...
+
+/-- The components of a map of 2-truncated simplicial sets built from a map on underlying reflexive
+quivers, under the assumption that the codomain is `StrictSegal`. -/
+def toStrictSegal₂.mk.app (n : SimplexCategory.Truncated 2) : X.obj (op n) ⟶ Y.obj (op n) := by
+  obtain ⟨n, hn⟩ := n
+  induction' n using SimplexCategory.rec with n
+  match n with
+  | 0 => exact fun x => F.obj x
+  | 1 => exact fun f => (F.map ⟨f, rfl, rfl⟩).edge
+  | 2 => exact fun φ => StrictSegal.spineToSimplex sy _ _ (oneTruncation₂.pathMap F (X.spine _ _ φ))
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:100]:
```suggestion
  | 2 => exact fun φ => sy.spineToSimplex _ _ (oneTruncation₂.pathMap F (X.spine _ _ φ))
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 4]
```diff
@@ -76,7 +76,240 @@ def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
...
+
+@[simp] theorem toStrictSegal₂.mk.app_zero (x : X _⦋0⦌₂) :
+    mk.app sy F ⦋0⦌₂ x = F.obj x := rfl
+
+@[simp] theorem toStrictSegal₂.mk.app_one (f : X _⦋1⦌₂) :
+    mk.app sy F ⦋1⦌₂ f = (F.map ⟨f, rfl, rfl⟩).edge := rfl
+
+@[simp] theorem toStrictSegal₂.mk.app_two (φ : X _⦋2⦌₂) :
+    mk.app sy F ⦋2⦌₂ φ =
+      StrictSegal.spineToSimplex sy _ _ (oneTruncation₂.pathMap F (X.spine _ _ φ)) := rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:110]:
```suggestion
      sy.spineToSimplex _ _ (oneTruncation₂.pathMap F (X.spine _ _ φ)) := rfl
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 5]
```diff
@@ -76,7 +76,240 @@ def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
...
+      dsimp [ι2₂]
+    · unfold ev02₂
+      simp only [Fin.isValue, OneTruncation₂.Quiver_homOfEq]
+      dsimp [δ1₂]
+  · simp only [Fin.reduceFinMk]
+    have :=
+      StrictSegal.spineToSimplex_arrow sy 2 (by omega) 0 (oneTruncation₂.pathMap F (X.spine 2 _ φ))
+    rw [← δ₂_two_eq_mkOfSucc] at this
+    rw [this]
+    rw [oneTruncation₂.pathMap_arrow]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:197]:
```suggestion
    rw [this, oneTruncation₂.pathMap_arrow]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 6]
```diff
@@ -76,7 +76,240 @@ def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
...
+
+lemma toStrictSegal₂.mk_naturality_σ1i (i : Fin 2) :
+    toStrictSegal₂.mk.naturalityProperty sy F (σ₂ i) := by
+  have : Mono (segalSpine (Z := Y)) := StrictSegal.segalSpineMono sy
+  apply (cancel_mono (segalSpine (Z := Y)) ).1
+  simp only [segalSpine, prod.comp_lift, assoc]
+  congr 1 <;> rw [← map_comp]
+  · show _ ≫ _ ≫ Y.map (δ₂ _).op = _ ≫ Y.map (_ ≫ (δ₂ _).op)
+    rw [← op_comp]
+    rw [← toStrictSegal₂.mk_naturality_δ1i sy F hyp, ← assoc, ← map_comp, ← op_comp]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:220]:
```suggestion
    rw [← op_comp, ← toStrictSegal₂.mk_naturality_δ1i sy F hyp, ← assoc, ← map_comp, ← op_comp]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 7]
```diff
@@ -76,7 +76,240 @@ def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
...
+    · dsimp only [Fin.zero_eta]
+      rw [δ₂_two_comp_σ₂_zero]
+      exact (toStrictSegal₂.mk.naturalityProperty sy F).comp_mem _ _
+        (toStrictSegal₂.mk_naturality_σ00 sy F) (toStrictSegal₂.mk_naturality_δ0i sy F _)
+    · dsimp only [Fin.mk_one]
+      rw [δ₂_two_comp_σ₂_one]
+      exact (toStrictSegal₂.mk.naturalityProperty sy F).id_mem _
+  · show _ ≫ _ ≫ Y.map (δ₂ _).op = _ ≫ Y.map (_ ≫ (δ₂ _).op)
+    rw [← op_comp]
+    rw [← toStrictSegal₂.mk_naturality_δ1i sy F hyp, ← assoc, ← map_comp, ← op_comp]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:232]:
```suggestion
    rw [← op_comp, ← toStrictSegal₂.mk_naturality_δ1i sy F hyp, ← assoc, ← map_comp, ← op_comp]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 8]
```diff
@@ -76,7 +76,240 @@ def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
...
+      | 0, _, 0 => toStrictSegal₂.mk_naturality_σ00 sy F
+      | 1, _, _ => toStrictSegal₂.mk_naturality_σ1i sy F hyp _)
+
+/-- A map `X → Y` of 2-truncated simplicial sets that is constructed from a refl prefunctor
+`F : OneTruncation₂ X ⥤rq OneTruncation₂ Y` assuming `∀ (φ : X _⦋2⦌₂),`
+`(F.map (ev02₂ φ)).edge =`
+`StrictSegal.spineToDiagonal sy 2 (by omega) (oneTruncation₂.pathMap F (X.spine _ _ φ)))`. -/
+@[simps!]
+def toStrictSegal₂.mk : X ⟶ Y where
+  app := fun n => toStrictSegal₂.mk.app sy F n.unop
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:257]:
```suggestion
  app n := toStrictSegal₂.mk.app sy F n.unop
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 9]
```diff
@@ -76,7 +76,240 @@ def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
...
+  naturality _ _ α := MorphismProperty.of_eq_top (toStrictSegal₂.mk_naturality sy F hyp) α.unop
+
+/-- A computation about `toStrictSegal₂.mk`. -/
+theorem oneTruncation₂_toStrictSegal₂Mk :
+    oneTruncation₂.map (toStrictSegal₂.mk sy F hyp) = F := by
+  refine ReflPrefunctor.ext' (fun _ ↦ rfl) (fun X Y f ↦ ?_)
+  · dsimp
+    unfold oneTruncation₂
+    dsimp
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:266]:
```suggestion
  · dsimp [oneTruncation₂]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 10]
```diff
@@ -76,7 +76,240 @@ def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
...
+    ext
+    dsimp
+    refine
+      ReflPrefunctor.congr_map_edge F { edge := f.edge, src_eq := rfl, tgt_eq := rfl } f ?_ ?_ ?_
+    · rw [f.src_eq]
+    · rw [f.tgt_eq]
+    · simp only [OneTruncation₂.Quiver_homOfEq]
+      rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:274]:
```suggestion
    exact ReflPrefunctor.congr_map_edge F { edge := f.edge, src_eq := rfl, tgt_eq := rfl }
      f f.src_eq f.tgt_eq (by simp only [OneTruncation₂.Quiver_homOfEq]; rfl)
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 11]
```diff
@@ -76,7 +76,240 @@ def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
...
+  have eq₀ (x : X _⦋0⦌₂) : F.app (op ⦋0⦌₂) x = G.app (op ⦋0⦌₂) x := congr(($hyp).obj x)
+  have eq₁ (x : X _⦋1⦌₂) : F.app (op ⦋1⦌₂) x = G.app (op ⦋1⦌₂) x :=
+    congr((($hyp).map ⟨x, rfl, rfl⟩).1)
+  ext ⟨⟨n, hn⟩⟩ x
+  induction' n using SimplexCategory.rec with n
+  match n with
+  | 0 => apply eq₀
+  | 1 => apply eq₁
+  | 2 =>
+    apply (StrictSegal.spineInjective sy 2)
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:291]:
```suggestion
    apply sy.spineInjective 2
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 12]
```diff
@@ -76,7 +76,240 @@ def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
...
+    unfold StrictSegal.spineEquiv
+    simp only [Nat.reduceAdd, Equiv.coe_fn_mk]
+    ext i
+    simp only [spine_arrow]
+    have h1 := congr_fun (F.naturality (Hom.tr (mkOfSucc i)).op) x
+    have h2 := congr_fun (G.naturality (Hom.tr (mkOfSucc i)).op) x
+    simp only [types_comp_apply, Nat.reduceAdd] at h1 h2
+    rw [← h1, ← h2]
+    apply eq₁
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:300]:
```suggestion
    have h1 := congr_fun (F.naturality (Hom.tr (mkOfSucc i)).op) x
    have h2 := congr_fun (G.naturality (Hom.tr (mkOfSucc i)).op) x
    simp only [types_comp_apply, Nat.reduceAdd] at h1 h2
    simp only [Equiv.coe_fn_mk, spine_arrow, ← h1, ← h2, eq₁]
```

**Comment by emilyriehl** [comment]
@joelriou this version now cuts all the legacy code.

File: lake-manifest.json [hunk 13]
```diff
@@ -1,7 +1,17 @@
 {"version": "1.1.0",
  "packagesDir": ".lake/packages",
  "packages":
- [{"url": "https://github.com/leanprover-community/plausible",
+ [{"url": "https://github.com/chasenorman/CanonicalLean.git",
```
Comment (joelriou) [inline lake-manifest.json:4]: As far as I know, there is no decision about including `canonical` in mathlib, so that you should remove this part.

**Comment by emilyriehl** [comment]
@joelriou is there anything else you'd like me to work on here?

**Comment by emilyriehl** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/25775
